US04006132
A reaction mixture consisting of 11 g. (0.085 mole) ethyl 2-oxobutyrate, 17 g. (0.077 mole) (2,4,6-trichlorophenyl)hydrazine, and 200 ml. benzene was heated at the reflux temperature with a Dean and Stark water trap attached to the reaction vessel. When all the water produced by the reaction had been removed, the benzene was removed by evaporation under reduced pressure. The oily residue that remained was dissolved in hot technical hexane, and this solution was allowed to cool. Crystals of the desired product separated and 15.2 g. were recovered. Recrystallization from methanol gave an analytical sample of ethyl 2-oxobutyrate 2-(2,4,6-trichlorophenyl)hydrazone having a melting point at 97° to 99° C.

reactant | ethyl 2-oxobutyrate | 0.085 mole | O=C(C(=O)OCC)CC | C6H10O3
reactant | (2,4,6-trichlorophenyl)hydrazine | 0.077 mole | ClC1=C(C(=CC(=C1)Cl)Cl)NN | C6H5Cl3N2
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | ethyl 2-oxobutyrate 2-(2,4,6-trichlorophenyl)hydrazone | ClC1=C(C(=CC(=C1)Cl)Cl)NN=C(C(=O)OCC)CC | C12H13Cl3N2O2
